US08486953B2
N-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenyl)-5-methyl-6-(1H-tetrazol-5-yl)thieno[2,3-d]pyrimidin-4-amine
To a stirred solution of 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carbonitrile (0.036 g, 0.093 mmol) in DMF (1.0 mL) was added sodium azide (0.012 g, 0.18 mmol) and ammonium chloride (0.01 g, 0.18 mmol) and the mixture heated at 125° C. for 1.5 hours. The solvent was concentrated in vacuo and the residue co-evaporated with toluene. The crude product was dissolved in 10% MeOH in DCM and the insoluble material removed by filtration. The residue was triturated from MeCN, the solid collected and dried under vacuum. The solid was purified by reverse phase preparative HPLC to give the product as beige solid after lyophilisation (0.021 g, 54%).

reactant | 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carbonitrile | 0.093 mmol, 0.036 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C#N)OC2CCOCC2 | C19H17FN4O2S
reactant | sodium azide | 0.18 mmol, 0.012 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.18 mmol, 0.01 g | [Cl-].[NH4+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenyl)-5-methyl-6-(1H-tetrazol-5-yl)thieno[2,3-d]pyrimidin-4-amine | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C2=NN=NN2)OC2CCOCC2 | C19H18FN7O2S
